US06927303B2
To a solution of 5-aminosalicylic acid (3.00 g, 19.6 mmole) in methanol (80 ml) was added c-H2SO4 (8 ml) at 0° C. After the reaction mixture was refluxed for 6 hr, the solvent was removed in vacuo. The resulting residue was partitioned with ethyl acetate and water. The organic layer was washed with water (40 ml×3) and then dried over anhydrous MgSO4. After evaporation of the solvent, the residue was recrystallized from ethyl acetate/hexane to give 2.50 g (76% yield) of methyl 5-amino-2-hydroxybenzoate as a yellow solid.

reactant | 5-aminosalicylic acid | 19.6 mmole, 3.00 g | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | methanol | 80 ml | CO | CH4O
product | methyl 5-amino-2-hydroxybenzoate | 2.50 g, 76% yield | NC=1C=CC(=C(C(=O)OC)C1)O | C8H9NO3
